US09259426B2
Synthesis of 6-(4-fluorophenyl)-4-hydroxy-quinazoline
A mixture of 6-bromo-4-hydroxy-quinazoline (2.4 g, 10 mmol), 4-fluorophenylboronic acid (1.54 g, 11 mmol), K2CO3 (4.15 g, 30 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.5 g, 0.43 mmol) in dioxane (150 ml) and water (50 ml) was heated under reflux for 12 hours. After cooling to room temperature, the reaction mixture was neutralized with acetic acid to pH 6-7. The precipitate was collected by filtration, washed with water and diethyl ether to yield the crude product. The crude residue was purified by silica gel flash chromatography, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1:40), yielding the pure title compound as a white solid (2.15 g, yield: 95%) which was characterized by its mass spectrum as follows: MS (m/z): 241 ([M+H]+, 100).

reactant | 6-bromo-4-hydroxy-quinazoline | 10 mmol, 2.4 g | BrC=1C=C2C(=NC=NC2=CC1)O | C8H5BrN2O
reactant | 4-fluorophenylboronic acid | 11 mmol, 1.54 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 30 mmol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.43 mmol, 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-fluorophenyl)-4-hydroxy-quinazoline | 2.15 g, yield: 95% | FC1=CC=C(C=C1)C=1C=C2C(=NC=NC2=CC1)O | C14H9FN2O
